US06916839B2
Preparation of 4-(2-chloroethenyl)-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole
2.00 g (8.23 mmol) of 4-bromo-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole, 18.5 mg (0.08 mmol) of palladium acetate and 60.3 mg (0.165 mmol) of tetra-n-butylammonium bromide are weighed into the glass insert of an autoclave together with 73.2 mg (0.329 mmol) of di(tert-butyl)phenylphosphine, 1.77 g (9.05 mmol) of dicyclohexylmethylamine, 9.1 mg (0.082 mmol) of hydroquinone and dimethylacetamide (22.8 ml), and placed under a protective gas atmosphere. Subsequently, 2.57 g (41.2 mmol) of vinyl chloride are metered in at 20° C. and the reaction mixture is stirred at 130° C. for 30 h. After the end of the reaction, the mixture is cooled, poured onto cold, dilute hydrochloric acid and extracted with CH2C12. The combined organic phases which have been dried over magnesium sulphate are concentrated. The product is obtained as a solid in a 69% yield.

reactant | 4-bromo-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole | 8.23 mmol, 2.00 g | BrC=1C(=NN(C1C)C)C(F)(F)F | C6H6BrF3N2
reactant | di(tert-butyl)phenylphosphine | 0.329 mmol, 73.2 mg | C(C)(C)(C)P(C1=CC=CC=C1)C(C)(C)C | C14H23P
reactant | dicyclohexylmethylamine | 9.05 mmol, 1.77 g | C1(CCCCC1)C(C1CCCCC1)N | C13H25N
reactant | hydroquinone | 0.082 mmol, 9.1 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | vinyl chloride | 41.2 mmol, 2.57 g | C(=C)Cl | C2H3Cl
reactant | hydrochloric acid | Cl | ClH
catalyst | tetra-n-butylammonium bromide | 0.165 mmol, 60.3 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 0.08 mmol, 18.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylacetamide | 22.8 ml | CC(=O)N(C)C | C4H9NO
product | 4-(2-chloroethenyl)-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole | 69% yield | ClC=CC=1C(=NN(C1C)C)C(F)(F)F | C8H8ClF3N2
